US04436913
4-(2-Imidazolin-2-yl-amino)-2-methyl-indazole hydrochloride
4 g 4-amino-2-methyl-indazole is dissolved in 120 ml THF. The solution is treated with a solution of 2-chloro-imidazoline base, which is prepared from 10 g 2-chloro-imidazoline sulfate (prepared according to J. Heteroc. Chem. 11, 258) with 2 n NaOH in methylene chloride.

reactant | 4-amino-2-methyl-indazole | 4 g | NC=1C2=CN(N=C2C=CC1)C | C8H9N3
reactant | 2-chloro-imidazoline | ClC=1NCCN1 | C3H5ClN2
reactant | 2-chloro-imidazoline sulfate | 10 g | S(=O)(=O)(O)O.ClC=1NCCN1
reactant | NaOH | [OH-].[Na+]
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-Imidazolin-2-yl-amino)-2-methyl-indazole hydrochloride | Cl.N1C(=NCC1)NC=1C2=CN(N=C2C=CC1)C | InChI=1S/C11H13N5.ClH/c1-16-7-8-9(3-2-4-10(8)15-16)14-11-12-5-6-13-11;/h2-4,7H,5-6H2,1H3,(H2,12,13,14);1H
